US08669234B2
{1-[1′-Methanesulfonyl-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester:
{1-[4-(4-Bromo-phenyl)-1′-methane sulfonyl-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (62.9 mg, 0.119 mmol) [prepared as described for the synthesis of {1-[1′-Acetyl-4-(4-bromo-phenyl)-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl (Example BY)]-2-methyl-propyl}-carbamic acid methyl ester substituting the acetic anhydride with methyl sulfonyl chloride] was combined with [2-Methyl-1-(2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester (54.6 mg, 0.110 mmol) under an argon atmosphere. Potassium carbonate (33.1 mg, 0.240 mmol) and Pd(PPh3)4 (12.7 mg, 0.011 mmol) were added, followed by DME (2.0 mL) and water (0.4 mL). The mixture was heated under microwave conditions for 20 minutes at 120° C. All volatiles were removed in vacuo and the crude material was dissolved in DMF and purified via RP-HPLC (eluent: water/MeCN w 0.1% TFA) to yield the product (20.1 mg): LCMS-ESI+: calc'd for C40H51N9O8S: 817.9 (M+). Found: 818.6 (M+H+); 1H-NMR: 300 MHz, (MeOH-d4) δ: 7.90-7.81 (m, 10H), 5.69 (d, J=7.5 Hz, 1H), 5.48 (dd, J=6.9, 6.9 Hz, 1H), 5.27 (dd, J=8.1, 8.1 Hz, 1H), 5.17 (d, J=8.4 Hz, 1H), 4.41 (dd, J=12.0, 7.8 Hz, 1H), 4.24 (d, J=7.2 Hz, 1H), 4.11 (m, 2H), 4.00 (d, J=8.1 Hz, 1H), 3.87 (m, 2H), 3.67 (s, 3H), 3.66 (s, 3H), 3.17 (s, 3H), 2.57 (m, 1H), 2.29-1.99 (m, 5H), 1.03-0.89 (m, 12H).

reactant | {1-[4-(4-Bromo-phenyl)-1′-methane sulfonyl-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.119 mmol, 62.9 mg | COC(NC(C(C)C)C(=O)N1CN(CC1C=1NC=C(N1)C1=CC=C(C=C1)Br)S(=O)(=O)C)=O | C20H26BrN5O5S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | [2-Methyl-1-(2-{4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]-carbamic acid methyl ester | 0.110 mmol, 54.6 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C26H37BN4O5
reactant | Potassium carbonate | 0.240 mmol, 33.1 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.011 mmol, 12.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.4 mL | O | H2O
solvent | DME | 2.0 mL | COCCOC | C4H10O2
product | {1-[1′-Methanesulfonyl-5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1′,2′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-3′-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 20.1 mg | COC(NC(C(C)C)C(=O)N1CN(CC1C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)S(=O)(=O)C)=O | C40H51N9O8S
